US08278454B2
C-(3,4-Dihydro-2H-pyran-2-yl)-methylamine (free base) (13.3 g, 118 mmol) and 1,1′-carbonyl diimidazole (28.6 g, 176 mmol) were dissolved in dichloromethane (900 mL) and stirred for 2 h at room temperature. Under an Argon atmosphere N,N-Dimethyl ethylene diamine [51.2 mL, 470 mmol; dissolved in dichloromethane (250 mL)] was added and the reaction mixture stirred for 65 h at room temperature. The reaction mixture was concentrated to about one third volume under reduced pressure and extracted three times with water (100 mL). The organic layer was dried with sodium sulphate and the remaining solvent removed under reduced pressure to yield 1-[(R)-1-(3,4-Dihydro-2H-pyran-2-yl)methyl]-3-(2-dimethylamino-ethyl)urea (24.2 g, 91%) as pale yellow liquid. Analytical data 1-[(R)-1-(3,4-Dihydro-2H-pyran-2-yl)methyl]-3-(2-dimethylamino-ethyl)-urea: HPLC-MS: (M+H)+=228.2 at rt=1.155 min., column: Chromolith SpeedROD RP-18e 50-4, 6 mm; solvent A: water+0.1% TFA, solvent B: acetonitrile+0.1% TFA, gradient: 4% B at 0.0 min, 100% B at 2.6 min., 100% B at 3.3 min, flow: 2.4 mL/min., UV: 220 nm.

reactant | C-(3,4-Dihydro-2H-pyran-2-yl)-methylamine | 118 mmol, 13.3 g | O1C(CCC=C1)CN | C6H11NO
reactant | 1,1′-carbonyl diimidazole | 176 mmol, 28.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-Dimethyl ethylene diamine | 470 mmol, 51.2 mL | CN(CCN)C | C4H12N2
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
product | 1-[(R)-1-(3,4-Dihydro-2H-pyran-2-yl)methyl]-3-(2-dimethylamino-ethyl)urea | 24.2 g, 91% | O1[C@H](CCC=C1)CNC(=O)NCCN(C)C | C11H21N3O2
